US06172085B2
To a solution of 1-[(5-amino-2,3dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-benzyl-N-(3,3-diphenylpropyl)-4-piperidinamine (1.5 g) in ethanol (50 mL) was added 0.30 g of 5% palladium on carbon (50% hydrous) and the mixture was stirred in a hydrogen atmosphere at 5 atmospheric pressure and 40° C. for 6 hours. This reaction mixture was filtered and the filtrate was concentrated under reduced pressure to provide 1.2 g of 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(3,3-diphenylpropyl)-4-piperidinamine. Yield 94%. This product was treated with 4N-HCl solution in ethanol and the resulting trihydrochloride was recrystallized from ethanol/diethyl ether to provide 1.3 g of the title compound. Yield 82%.

reactant | 1-[(5-amino-2,3dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-benzyl-N-(3,3-diphenylpropyl)-4-piperidinamine | 1.5 g | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)N(CCC(C2=CC=CC=C2)C2=CC=CC=C2)CC2=CC=CC=C2)C1C)C)C | C40H49N3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.30 g | [Pd] | Pd
product | 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-(3,3-diphenylpropyl)-4-piperidinamine | 1.2 g, Yield 94% | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)NCCC(C2=CC=CC=C2)C2=CC=CC=C2)C1C)C)C | C33H43N3O
